US04373104
To 3.2 g. of α-(carboxymethyl-mercapto)-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile 15 ml. of pyridine and 15 ml. of acetic anhydride are added. The solution is allowed to stand at room temperature for two days. 2.8 g. of 1-Cyano-9,10-dimethoxy-3,4,6,7-tetrahydro-1,4-thiazino[3,4-a]isoquinoline-4-one are obtained in a crystalline form. The product is identical with the product of Example 24.

reactant | α-(carboxymethyl-mercapto)-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile | 15 ml | C(=O)(O)CSC(C#N)C1=NCCC2=CC(=C(C=C12)OC)OC | C15H16N2O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Cyano-9,10-dimethoxy-3,4,6,7-tetrahydro-1,4-thiazino[3,4-a]isoquinoline-4-one | C(#N)C=1SCC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=O | C15H14N2O3S
